US07855201B2
Step 1: methyl 2-methoxy-6-methylpyrimidine-4-carboxylate
A mixture of 1 g of methyl 2-chloro-6-methylpyrimidine-4-carboxylate, 20 mL of methanol and 2 mL of 30% sodium methoxide in methanol was stirred under nitrogen at room temperature for 3 hrs, quenched with 3 mL of acetic acid and concentrated under reduced pressure. The residue was partitioned between 25 mL of saturated sodium bicarbonate and 3×20 mL of ethyl acetate and the extracts dried over MgSO4. Concentration under reduced pressure gave a white crystalline solid: MS (m+1)=183.1; 1H NMR (400 MHz, CDCl3) 7.5 (s, 1H), 4.1 (s, 3H), 4.0 (s, 3H), 2.58 (s, 3H).

reactant | methyl 2-chloro-6-methylpyrimidine-4-carboxylate | 1 g | ClC1=NC(=CC(=N1)C(=O)OC)C | C7H7ClN2O2
reactant | sodium methoxide | 2 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | methyl 2-methoxy-6-methylpyrimidine-4-carboxylate | COC1=NC(=CC(=N1)C(=O)OC)C | C8H10N2O3
